US05552426
Synthesis of 1-(3-hydroxybenzyl)-2-(3-methylphenyl)benzimidazole hydrobromide.
This compound was prepared by first synthesizing 1-(3-methoxybenzyl)-2-(3-methylphenyl)benzimidazole as described in Example 65, supra. With an amount of the compound of Example 65 (4.31 g, 13.12 mmol) in glacial acetic acid (50 ml) and hydrobromic acid (300 ml of a 48% w/v in acetic acid solution). This mixture was stirred for 2 hours while warming to reflux. The mixture was then stirred at reflux for about three hours.

reactant | 1-(3-methoxybenzyl)-2-(3-methylphenyl)benzimidazole | COC=1C=C(CN2C(=NC3=C2C=CC=C3)C3=CC(=CC=C3)C)C=CC1 | C22H20N2O
reactant | hydrobromic acid | Br | BrH
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 1-(3-hydroxybenzyl)-2-(3-methylphenyl)benzimidazole hydrobromide | Br.OC=1C=C(CN2C(=NC3=C2C=CC=C3)C3=CC(=CC=C3)C)C=CC1 | InChI=1S/C21H18N2O.BrH/c1-15-6-4-8-17(12-15)21-22-19-10-2-3-11-20(19)23(21)14-16-7-5-9-18(24)13-16;/h2-13,24H,14H2,1H3;1H
